US04720500
The procedure is analogous to that described in Example 1, but starting with 4-trifluoromethylbenzoic acid (10 g), N,N'-carbonyldiimidazole (8.4 g) and 2-amino-7-chloro-1,8-naphthyridine (5.9 g). The product obtained by precipitation in water (11.5 g; m.p. 236° C.) is dissolved in boiling acetonitrile (250 cc). After cooling for 4 hours at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (2×20 cc) and dried at 45° C. under reduced pressure (0.07 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-4-trifluoromethylbenzamide (9 g), m.p. 236° C., is obtained.

reactant | 4-trifluoromethylbenzoic acid | 10 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 5.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | acetonitrile | 250 cc | C(C)#N | C2H3N
solvent | water | 11.5 g | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-4-trifluoromethylbenzamide | 9 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C16H9ClF3N3O
